US08202989B2
A mixture of isatoic anhydride (1 mol) and 1,2 phenylenediamine (1.1 mol) in aglacial acetic acid (60%) was heated at 75° C. for 3 hrs. The resulting mixture was diluted with water and solid filtered to obtained dibenzo[b,e][1,4]-diazepine-11-one in 96% yield.

reactant | isatoic anhydride | 1 mol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,2 phenylenediamine | 1.1 mol | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | dibenzo[b,e][1,4]-diazepine-11-one | 96% yield | C1=CC=CC=2N=C3C(=NC(C21)=O)C=CC=C3 | C13H8N2O
